US07521457B2
2-[2-(4-amino-3-methoxy-phenyl)-thiazole-5-yl]-ethanol is prepared analogously to the processes described above. For the cyclisation, 4-amino-3-methoxy-thiobenzamide is used (analogously to J. Am. Soc. 82, 2656, 1960) instead of 3-methoxy-4-nitro-benzamidine.

reactant | 4-amino-3-methoxy-thiobenzamide | NC1=C(C=C(C(=S)N)C=C1)OC | C8H10N2OS
reactant | 3-methoxy-4-nitro-benzamidine | COC=1C=C(C(=N)N)C=CC1[N+](=O)[O-] | C8H9N3O3
product | 2-[2-(4-amino-3-methoxy-phenyl)-thiazole-5-yl]-ethanol | NC1=C(C=C(C=C1)C=1SC(=CN1)CCO)OC | C12H14N2O2S
